* source DOUBLE ENDED CLIPPER
V_V1         N00225 0  
+SIN 0 5 1k 0 0 0
D_D1         N00232 N00239 D1N4002 
D_D2         N00269 N00232 D1N4002 
R_R1         N00225 N00232  1K TC=0,0 
V_V2         N00239 0 2
V_V3         0 N00269 2
