* source POSITIVE CLAMPER WITH REFERENCE
V_V2         N15203 0 5
D_D1         N15203 N15139 D1N4002 
V_V1         N15129 0  
+PULSE 2 -2 0.01ms 0.01us 0.01us 0.5ms 1ms
C_C1         N15129 N15139  0.1uF  TC=0,0 
R_R1         0 N15139  200K TC=0,0 
