* source POSITIVE CLIPPER
V_V1         N00174 0  
+SIN 0 5 1K 0 0 0
D_D1         N00181 N00174 D1N4002 
R_R1         N00188 N00181  1K TC=0,0 
V_V2         N00188 0 2
