* source SHUNT CLIPPER
V_V1         N00151 0  
+SIN 0 5 1K 0 0 0
D_D1         N00158 N00165 D1N4002 
R_R1         N00151 N00158  1K TC=0,0 
V_V2         N00165 0 2
