* source RELAXATION OSCILLATOR
X_U1         N00341 N00345 N000562 N000563 N00362 uA741
V_V1         N000562 0 5Vdc
V_V2         0 N000563 5Vdc
R_R1         0 N00341  1k TC=0,0 
R_R2         N00341 N00362  1k TC=0,0 
R_R3         N00345 N00362  1k TC=0,0 
C_C1         N00960 N00345  1uF  TC=0,0 
V_V3         N00960 0  
+SIN 0 5 1k 0 0 0
