* source SCHMITT TRIGGER
X_U1         N00281 N00285 N000562 N000563 N00370 uA741
V_V1         0 N000563 10
V_V2         N000562 0 10
V_V3         N00285 0  
+SIN 0 10 100 0 0 0
R_R1         N00277 N00281  1k TC=0,0 
R_R2         N00281 N00370  1k TC=0,0 
V_V4         N00277 0 0
